US08293214B2
H-Arg(Pmc)-OH (5 g, 11.35 mmol) was dissolved in a mixture of H2O and dioxane (1/1, v/v, 125 mL), and diallyl pyrocarbonate (6.34 g, 34.05 mmol, 3.0 equiv) was added. The pH of the mixture was adjusted to > 10.0 by adding Na2CO3. The mixture was stirred and kept at reflux overnight. The volatiles were removed by rotary evaporation, the crude was dissolved in EtOAc (100 mL/g of crude) and the solution was washed with 1N HCl (2×). The volatiles were removed by rotary evaporation, the crude was dissolved in CHCl3 and the solution was loaded onto a silica gel column. The column was eluted with two column volumes of CHCl3 and then similarly eluted with a 5% solution of MeOH in CHCl3. Fractions containing the desired compound were combined and the volatiles were removed by rotary evaporation and pumping at high vacuum to provide 4.2 g (70% yield) of Aloc-Arg(Pmc)-OH. The proton NMR spectrum (CDCl3, 500 MHz) was consistent with the expected structure and required purity.

reactant | H-Arg(Pmc)-OH | 11.35 mmol, 5 g | N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)O | C20H32N4O5S
reactant | diallyl pyrocarbonate | 34.05 mmol, 6.34 g, 3.0 equiv | C(OCC=C)(=O)OC(=O)OCC=C | C8H10O5
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | O | H2O
solvent | dioxane | 125 mL | O1CCOCC1 | C4H8O2
product | Aloc-Arg(Pmc)-OH | 4.2 g, 70% yield | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)O)C(=O)OCC=C | C24H36N4O7S
